US06136821
A. 2-Cyano-3-pyridylacetonitrile
To a stirred suspension of 3-cyanomethylpyridine-N-oxide (30 g, 0.22 mol; for synthesis see Shigenobu Okuda, Michael M. Robison, J. Am. Chem. Soc. 81, 740 (1959)) in dichloromethane (200 ml) is added trimethylsilanecarbonitrile (26 g, 0.26 mol). To this suspension is added dimethylcarbamyl chloride (28 g, 0.26 mol). The mixture is stirred for 45 h. The solvent is removed and the residue dissolved in ethyl acetate. The solution is washed with 1 N NaOH and water and concentrated in vacuo. The product is purified by flash column chromatography on silica gel (15:2 toluene/acetone) affording the title compound. Mass M+H 144.1. Melting point 62-63° C.

reactant | 3-cyanomethylpyridine-N-oxide | 0.22 mol, 30 g | C(#N)CC=1C=[N+](C=CC1)[O-] | C7H6N2O
reactant | trimethylsilanecarbonitrile | 0.26 mol, 26 g | C[Si](C#N)(C)C | C4H9NSi
reactant | dimethylcarbamyl chloride | 0.26 mol, 28 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Cyano-3-pyridylacetonitrile | C(#N)C1=NC=CC=C1CC#N | C8H5N3
